US07745641B2
In a similar manner to Step 2 of Example 16, 3-chloro-4-fluoro-N-(1-methyl-1-phenylethyl)benzamide (3.00 g, 10.3 mmol) was dissolved in THF (120 mL), and the solution was treated with TMEDA (5.00 mL, 32.9 mmol), sec-butyl lithium-hexane solution (1.01 mol/L, 32.6 mL, 32.9 mmol) and DMF (1.80 mL, 22.6 mmol), followed by purification by flash column chromatography (chloroform) and by slurry (chloroform) to obtain 4-chloro-3-hydroxy-5-fluoro-2-(1-methyl-1-phenylethyl)isoindolinone (1.50 g, yield 46%).

reactant | 3-chloro-4-fluoro-N-(1-methyl-1-phenylethyl)benzamide | 10.3 mmol, 3.00 g | ClC=1C=C(C(=O)NC(C)(C2=CC=CC=C2)C)C=CC1F | C16H15ClFNO
reactant | TMEDA | 32.9 mmol, 5.00 mL | CN(C)CCN(C)C | C6H16N2
reactant | DMF | 22.6 mmol, 1.80 mL | CN(C)C=O | C3H7NO
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | 4-chloro-3-hydroxy-5-fluoro-2-(1-methyl-1-phenylethyl)isoindolinone | 1.50 g, yield 46% | ClC1=C2C(N(C(C2=CC=C1F)=O)C(C)(C1=CC=CC=C1)C)O | C17H15ClFNO2
